US05688798
3.2 g (0.011 mol) of 5-[4-(4-fluoro-phenyl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2-methyl-pyrimidin-4-ylamine were dissolved in ethanol and treated with excess ethanolic hydrochloric acid. Crystals separated from the solution. 2.2 g (54%) of 5-[4-(4-fluoro-phenyl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2-methyl-pyrimidin-4-ylamine dihydrochloride were obtained as pale yellow crystals; m.p. 262°-264°.

reactant | 5-[4-(4-fluoro-phenyl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2-methyl-pyrimidin-4-ylamine | 0.011 mol, 3.2 g | FC1=CC=C(C=C1)C=1CCN(CC1)CC=1C(=NC(=NC1)C)N | C17H19FN4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-[4-(4-fluoro-phenyl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2-methyl-pyrimidin-4-ylamine dihydrochloride | 2.2 g, 54% | Cl.Cl.FC1=CC=C(C=C1)C=1CCN(CC1)CC=1C(=NC(=NC1)C)N | InChI=1S/C17H19FN4.2ClH/c1-12-20-10-15(17(19)21-12)11-22-8-6-14(7-9-22)13-2-4-16(18)5-3-13;;/h2-6,10H,7-9,11H2,1H3,(H2,19,20,21);2*1H
